US07517996B2
(Step A-4) Synthesis of 3-p-tolyl-isoxazole-4-carboxylic acid
Methyl 3-p-tolyl-isoxazole-4-carboxylate (3.1 g, 14.3 mmol) was dissolved in THF (50 ml), 2N aqueous lithium hydroxide solution (50 ml) was added, and the mixture was stirred for 4 hours. Then, 1N hydrochloric acid (150 ml) was added at 0° C., and the mixture was extracted with ethyl acetate. The extract was dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure to give the title compound (2.89 g, 14.3 mmol, 100%).

reactant | Methyl 3-p-tolyl-isoxazole-4-carboxylate | 14.3 mmol, 3.1 g | C1(=CC=C(C=C1)C1=NOC=C1C(=O)OC)C | C12H11NO3
reactant | lithium hydroxide | 2N, 50 ml | [OH-].[Li+]
reactant | hydrochloric acid | 1N, 150 ml | Cl | ClH
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 3-p-tolyl-isoxazole-4-carboxylic acid | 14.3 mmol, 2.89 g, 100% | C1(=CC=C(C=C1)C1=NOC=C1C(=O)O)C | C11H9NO3
